US05489602
To a mixture of 5-amino-2-[2-(5-methyl-2-phenyl-4-oxazolyl) ethoxy]pyridine (4.5 g), aqueous HBr (47%, 7.1 ml) and acetone (70 ml) was added an aqueous solution of sodium nitrite (NaNO2) (1.17 g) in water (5 ml) dropwise at a temperature of under 10° C. After stirring at 10° C. for 30 minutes, the temperature was increased to 30° C., and methyl acrylate (8.3 ml) was added. Then, cuprous oxide (Cu2O) (0.1 g) was added little by little, and the mixture was vigorously stirred. The reaction mixture was further stirred at 40° to 45° C. for 1 more hour and then concentrated under reduced pressure. After alkalinization with concentrated aqueous ammonia, the residue was extracted with ethyl acetate. After the ethyl acetate layer was washed with water and dried (MgSO4), the solvent was distilled off under reduced pressure. The residual oily substance was subjected to silica gel chromatography. From the fraction eluted with ethyl acetate-hexane (2:1, v/v), 2-bromo-3-[2-[2-(5-methyl-2-phenyl-4-oxazolyl]ethoxy]-5-pyridyl]propionic acid methyl ester (4.7 g, 68%) was obtained. NMR (δ ppm in CDCl3): 2.34 (3H, s), 2.98 (2H, t, J=6.7 Hz), 3.16 (1H, dd, J=7.0 & 14.5 Hz), 3.37 (1H, dd, J=8.0 & 14.5 Hz), 3.74 (3H, s), 4.31 (1H, dd, J=8.0 & 7.0 Hz), 4.55 (2H, t, J=6.7 Hz), 6.67 (1H, d, J=8.6 Hz), 7.35-7.50 (4H, m), 7.90-8.05 (3H, m)

reactant | 5-amino-2-[2-(5-methyl-2-phenyl-4-oxazolyl) ethoxy]pyridine | 4.5 g | NC=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C17H17N3O2
reactant | HBr | 7.1 ml | Br | BrH
reactant | sodium nitrite | 1.17 g | N(=O)[O-].[Na+]
reactant | methyl acrylate | 8.3 ml | C(C=C)(=O)OC | C4H6O2
solvent | water | 5 ml | O | H2O
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | 2-bromo-3-[2-[2-(5-methyl-2-phenyl-4-oxazolyl]ethoxy]-5-pyridyl]propionic acid methyl ester | 4.7 g, 68% | COC(C(CC=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=CC=CC=C1)Br)=O | C21H21BrN2O4
